US08609866B2
Preparation of (Z)-ethyl amino-(4-((1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carbonylamino)methyl)phenyl)methylenecarbamate
130 mg of N-[(4-carbamimidoylphenyl)methyl]-1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carboxamide hydrochloride and 130 mg of potassium carbonate were dissolved in 1.6 ml of water and 8 ml of tetrahydrofuran. The mixture was stirred at room temperature, and 0.031 ml of ethyl chloroformate (Sigma-Aldrich) added. Stirring was continued for 1 h, following which the organic layer is removed, and dried in vacuo to obtain the synthetic target. The mass of the compound was verified using LC/MS/MS.

reactant | N-[(4-carbamimidoylphenyl)methyl]-1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carboxamide hydrochloride | 130 mg | Cl.C(N)(=N)C1=CC=C(C=C1)CNC(=O)C1=C(N(C(=C1)C)C1=CC=C(C=C1)F)C
reactant | potassium carbonate | 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 0.031 ml | ClC(=O)OCC | C3H5ClO2
solvent | water | 1.6 ml | O | H2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (Z)-ethyl amino-(4-((1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carbonylamino)methyl)phenyl)methylenecarbamate | N\C(\C1=CC=C(C=C1)CNC(=O)C1=C(N(C(=C1)C)C1=CC=C(C=C1)F)C)=N/C(OCC)=O | C24H25FN4O3
